** sch_path: /foss/designs/ICONS2026/xschem/tb_op.sch
**.subckt tb_op
V1 net1 GND 0.6
V2 net2 net1 1.2
XM1 net1 net2 net1 GND sg13_lv_nmos w=100u l=0.13u ng=10 m=1
V3 net3 GND 0.6
V4 net4 net3 1.2
XM2 net3 net4 net3 GND sg13_lv_nmos w=100u l=0.13u ng=10 m=1
XM3 net5 net5 GND GND sg13_lv_nmos w=100u l=0.13u ng=10 m=1
V5 net5 GND 0.6
**** begin user architecture code


.lib cornerMOSlv.lib mos_tt

.control
    op
    show
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
